US03983239
Preparation of 5,8-dimethyl-2-[γ-(p-fluorobenzoyl)propyl]-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
A mixture of 8-methyl-2-[γ-(p-fluorobenzoyl)propyl]-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (7.5 g), formic acid (2.7 g) and formalin (2.2 g) is refluxed for 3 hours. After cooling, to the reaction mixture is added water, and the mixture is made alkaline with aqueous sodium hydroxide and extracted with benzene. The benzene layer is dried over anhydrous sodium sulfate and concentrated. The resulting residue is treated with ethanolic hydrogen chloride in the same manner as described in Example 1 (1) to give the dihydrochloride of the titled compound (4.1 g), m.p. 140° - 145°C (recrystallized from aqueous ethanol).

reactant | 8-methyl-2-[γ-(p-fluorobenzoyl)propyl]-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 7.5 g | CC1=CC=2C3C(NC2C=C1)CCN(C3)CCCC(C3=CC=C(C=C3)F)=O | C22H25FN2O
reactant | formic acid | 2.7 g | C(=O)O | CH2O2
reactant | formalin | 2.2 g | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 5,8-dimethyl-2-[γ-(p-fluorobenzoyl)propyl]-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | CN1C2C(C=3C=C(C=CC13)C)CN(CC2)CCCC(C2=CC=C(C=C2)F)=O | C23H27FN2O
